* CREATED USING PARTS RELEASE 4.03 ON 10/11/90 AT 13:06
* REV.A
*  ------------------------------------------------------------------------
* |  NOTICE: THE INFORMATION PROVIDED HEREIN IS BELIEVED TO BE RELIABLE;   |
* |  HOWEVER; BURR-BROWN ASSUMES NO RESPONSIBILITY FOR INACCURACIES OR     |
* |  OMISSIONS.  BURR-BROWN ASSUMES NO RESPONSIBILITY FOR THE USE OF THIS  |
* |  INFORMATION, AND ALL USE OF SUCH INFORMATION SHALL BE ENTIRELY AT     |
* |  THE USER'S OWN RISK.  NO PATENT RIGHTS OR LICENSES TO ANY OF THE      |
* |  CIRCUITS DESCRIBED HEREIN ARE IMPLIED OR GRANTED TO ANY THIRD PARTY.  |
* |  BURR-BROWN DOES NOT AUTHORIZE OR WARRANT ANY BURR-BROWN PRODUCT FOR   |
* |  USE IN LIFE-SUPPORT DEVICES AND/OR SYSTEMS.                           |
*  ------------------------------------------------------------------------
*
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |

.SUBCKT OPA2604  1 2 3 4 5
*
C1   11 12 22.85E-12
C2    6  7 32.00E-12
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 418.4E3 -40E3 40E3 40E3 -40E3
GA    6  0 11 12 2.011E-3
GCM   0  6 10 99 20.11E-9
ISS   3 10 DC 800.0E-6
HLIM 90  0 VLIM 1K
J1   11  2 10 JX
J2   12  1 10 JX
R2    6  9 100.0E3
RD1   4 11 497.4
RD2   4 12 497.4
RO1   8  5 25
RO2   7 99 75
RP    3  4 6.294E3
RSS  10 99 250.0E3
VB    9  0 DC 0
VC    3 53 DC 3
VE   54  4 DC 3
VLIM  7  8 DC 0
VLP  91  0 DC 50
VLN   0 92 DC 50
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(IS=12.50E-12 BETA=2.528E-3 VTO=-1)
.ENDS
