* Z:\home\ami\work\repos\amiduino\ltspice\basic\OpAmpCurrentBoosting.asc
XU2 N003 N005 V+ 0 N004 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V V+ 0 12
V1 N003 0 0.3
R1 N004 N005 10k
Q1 0 N006 Vout 0 2N3906
Q2 V+ N002 Vout 0 2N3904
R3 V+ N002 1.2k
D1 N002 N004 1N914
R4 N006 0 1.2k
D2 N004 N006 1N914
R2 N005 0 1k
R5 Vout 0 50
.model D D
.lib C:\users\ami\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\ami\AppData\Local\LTspice\lib\cmp\standard.bjt
.op
.lib UniversalOpAmp1.lib
.backanno
.end
